US07884234B2
(3) Preparation of Methyl N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate
A mixture of methyl N-(4-bromophenyl)-N-(3,5-dimethylbenzyl)oxamate (707 mg, 1.88 mmol), 4-(trifluoromethoxy)phenylboronic acid (500 mg, 2.44 mmol), [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (300 mg, 0.357 mmol), potassium carbonate (389 mg, 2.82 mmol), dioxane (10 ml) and water (1 ml) was stirred at 80° for 4 hours. The reaction mixture was cooled to room temperature, and filtered through celite. The residue obtained by concentration of the filtrate under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=10:1) to give the title compound (630 mg, 73%) as a light brown oil.

reactant | methyl N-(4-bromophenyl)-N-(3,5-dimethylbenzyl)oxamate | 1.88 mmol, 707 mg | BrC1=CC=C(C=C1)N(C(C(=O)OC)=O)CC1=CC(=CC(=C1)C)C | C18H18BrNO3
reactant | 4-(trifluoromethoxy)phenylboronic acid | 2.44 mmol, 500 mg | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | potassium carbonate | 2.82 mmol, 389 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | [1,1-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.357 mmol, 300 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)P(C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.Cl[Pd]Cl.[Fe]
solvent | water | 1 ml | O | H2O
product | Methyl N-(3,5-dimethylbenzyl)-N-[4′-(trifluoromethoxy)biphenyl-4-yl]oxamate | 630 mg, 73% | CC=1C=C(CN(C(C(=O)OC)=O)C2=CC=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F)C=C(C1)C | C25H22F3NO4
